US05849764
Step 7.1B 2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-4-yl)butylamino]ethyl]-1H-indol-5-yl]-N,N-diethylisobutyramide
A mixture of 93.3 mg (0.23 mmol) of 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-N,N-diethylisobutyramide, 37.7 mg (0.253 mmol) of 4-(pyridin-4-yl)butyraldehyde, and 138 mg (1.15 mmol) of magnesium sulfate was purged with nitrogen and cooled in an ice-methanol bath at about -10° C. as 0.50 mL of CDCl3 was added gradually by syringe. The mixture was stirred under nitrogen at this temperature for 1 hour. The septum was removed just long enough to add 11.3 mg (0.30 mmol) of sodium borohydride, and the solution was repurged with nitrogen. The mixture was stirred at -10° to -5° C. as 0.50 mL of dry methanol was added gradually, and stirring was continued at this temperature. After 35 minutes, the mixture was partitioned between 5 mL of ethyl acetate and 5 mL of water. The ethyl acetate layer was washed with brine, then dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by two stages of preparative TLC on Analtech tapered silica gel GF plates (developed first in 90:10:1 methylene chloride -methanol-ammonium hydroxide and repeated in 90:10 methylene chloride -methanol). Isolation of the product bands gave 25.7 mg (21%) of light golden-colored glassy residue; virtually homogenous by TLC in 92.5:7.5:0.75 CH2Cl2 -MeOH-concd. NH4OH. 500 MHz 1H NMR (CDCl3) was consistent with the assigned structure. Mass spectrum (ESI): m/e=539 (M+H).

reactant | 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-N,N-diethylisobutyramide | 0.23 mmol, 93.3 mg | NCCC1=C(NC2=CC=C(C=C12)C(C(=O)N(CC)CC)(C)C)C1=CC(=CC(=C1)C)C | C26H35N3O
reactant | 4-(pyridin-4-yl)butyraldehyde | 0.253 mmol, 37.7 mg | N1=CC=C(C=C1)CCCC=O | C9H11NO
reactant | magnesium sulfate | 1.15 mmol, 138 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 0.30 mmol, 11.3 mg | [BH4-].[Na+]
reactant | NH4OH | [NH4+].[OH-]
solvent | methanol | 0.50 mL | CO | CH4O
product | 2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-4-yl)butylamino]ethyl]-1H-indol-5-yl]-N,N-diethylisobutyramide | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC1=CC=NC=C1)C(C(=O)N(CC)CC)(C)C | C35H46N4O
